US05767141
A mixture of 50 g of methyl 2,3-dibromo-3-phenylpropanoate, 100 ml of triethylamine and 500 ml of toluene is heated to boiling for 1 h and subsequently cooled to room temperature and filtered. The filtrate is evaporated in vacuo, and the α-bromocinnamic acid obtained in this way is used further without purification. 0.2 mol of the azol derivative dissolved in 150 ml of anhydrous DMF is added dropwise with stirring to a suspension of 4.7 g of NaK (80% in mineral oil) in 100 ml of anhydrous DMF. The temperature of the mixture is maintained below 35° C. during this by cooling with ice. After the addition is complete, the mixture is stirred at room temperature for 1 h. The previously prepared α-bromocinnamic acid is dissolved in 200 ml of anhydrous DMF and, while cooling with ice, the solution of the azol sodium salt is added dropwise with stirring. After stirring at room temperature for two hours, 10.8 ml of glacial acetic acid are added, the mixture is stirred into 1.5 l of ice-water and extracted several times with ethyl acetate, and the organic phases are washed with water. The organic phases are dried and evaporated in vacuo, and the residue is purified by column chromatography on silica gel (mobile phase: n-heptane/ethyl acetate) or recrystallization.

reactant | methyl 2,3-dibromo-3-phenylpropanoate | 50 g | BrC(C(=O)OC)C(C1=CC=CC=C1)Br | C10H10Br2O2
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | α-bromocinnamic acid | BrC(C(=O)O)=CC1=CC=CC=C1 | C9H7BrO2
